US05629339
5,7-Dihydroxy-2-(3-allyloxy-4-methoxyphenyl)-4H-1-benzopyran-4-one
20 g of diosmetin are dissolved in a mixture of 400 ml of anhydrous methanol and 13.3 g of potassium pellets. The reaction mixture is maintained at room temperature and then 16 g of allyl bromide dissolved in 40 ml of methanol are added dropwise with stirring. Stirring is then continued for 48 hours, and the solvents and volatile products are subsequently distilled off under reduced pressure at room temperature. The residue is taken up in 400 ml of CH2Cl2, and the insoluble material is collected by filtration and then recrystallised from 440 ml of isopropanol to yield 19 g of the expected compound, m.p.: 219° C.

reactant | diosmetin | 20 g | COC=1C=CC(=CC1O)C2=CC(=O)C=3C(=CC(=CC3O2)O)O | C16H12O6
reactant | allyl bromide | 16 g | C(C=C)Br | C3H5Br
solvent | methanol | 400 ml | CO | CH4O
solvent | potassium | 13.3 g | [K] | K
solvent | methanol | 40 ml | CO | CH4O
product | 5,7-Dihydroxy-2-(3-allyloxy-4-methoxyphenyl)-4H-1-benzopyran-4-one | 19 g | OC1=CC(=CC2=C1C(C=C(O2)C2=CC(=C(C=C2)OC)OCC=C)=O)O | C19H16O6
